US06399631B1
Trifluoroacetic anhydride (0.094 mL, 0.668 mmol, 3 equiv) was added to a solution of 3-amino-9-isopropylcarbazole (50 mg, 0.223 mmol 1 equiv), triethylamine (0.186 mL, 135 mg, 6 equiv) and DMAP (5 mg) in CH2Cl2 (5 mL). The resultant solution was stirred at room temperature for 22 hours and then diluted with ethyl acetate (10 mL). The mixture was washed with saturated aqueous sodium chloride (3×5 mL) and dried over anhydrous sodium sulfate. The residue was purified by rotary chromatography (20% ethyl acetate in hexanes) to provide N-(9-isopropyl-9H-carbazol-3-yl)-trifluoroacetamide (43 mg, 60%) as a pale yellow solid.

reactant | Trifluoroacetic anhydride | 0.668 mmol, 0.094 mL, 3 equiv | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 3-amino-9-isopropylcarbazole | 0.223 mmol, 50 mg, 1 equiv | NC=1C=CC=2N(C3=CC=CC=C3C2C1)C(C)C | C15H16N2
reactant | triethylamine | 0.186 mL, 135 mg, 6 equiv | C(C)N(CC)CC | C6H15N
catalyst | DMAP | 5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | N-(9-isopropyl-9H-carbazol-3-yl)-trifluoroacetamide | 43 mg, 60% | C(C)(C)N1C2=CC=CC=C2C=2C=C(C=CC12)NC(C(F)(F)F)=O | C17H15F3N2O
